Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
"Seizure and urinary incontinence"
 
Major Surgical or Invasive Procedure:
Lumbar puncture, performed ___ 15:46 
 
History of Present Illness:
This patient is a ___ year-old man with a history of CAD (s/p MI 
and CABG in ___, hypertension (140s-150s over ___ since ___, 
mood disorders (bipolar and depression with suicidal ideation, 
treated with ECT), seizures (which, per patient, he has not 
experienced for ___ years but were treated successfully with 
phenytoin in the distant past), and several falls with subacute 
fractures over the past year who presents following an episode 
of tonic-clonic jerking and urinary continence at a grocery 
store.
.
The patient was reportedly in his usual state of health on the 
morning of admission at the grocery store when he had an 
observed episode of tonic-clonic jerking. The episode 
purportedly lasted "less than a few minutes" per his nurse. He 
fell backwards but was caught by a bystander, who let him down 
on the floor without causing trauma to the head or body. There 
was urinary incontinence during the episode, but no other 
reportable symptoms besides tonic-clonic jerking in the upper 
extremities and possibly lower extremities bilaterally. 
Following the episode, the patient was reportedly somewhat 
confused and sleepy until he arrived at the emergency 
department. 
.
In the field, the patient was found to be normoglycemic. He was 
brought to the emergency room, where he verbally recounted the 
story of the episode. He also told the emergency team that he 
was depressed and planned to kill himself. Approximately one 
hour after arriving in the ED (now 14:50), he began to stutter 
("I need, I need, I need") for approximately 30 seconds before 
he became mute other than uttering "mmm" occasionally to answer 
questions. At this point he only followed the simplest of 
commands. 30 minutes later, he began to babble incoherently in 
response to questioning, still following only simple commands.   

.
Prior to the onset of the mutism, the patient did not report any 
headache, chest pain, shortness of breath, nausea, vomiting, or 
diarrhea. There were no fevers, chills, or sweats. He did 
mention on arrival to the ED that he had had a several week 
history of dull abdominal pain. 
.
Of note, the patient has a history of several falls and 
resultant subacute fractures and lacerations over the past year, 
and was last admitted to the ___ in ___ for a fall that 
resulted from "tripping over a curb." There has been no evidence 
of intracranial bleeds in any of these episodes, he was never 
orthostatic, and the histories were not consistent with 
vasovagal episodes. Per the respective discharge summaries, 
there never was reported any prodromal symptoms during these 
episodes.   
.
Also of note, per OMR the patient has declared himself a 
Jehovah's Witness and described himself as not willing to 
receive blood products under any circumstance. 
.
The patient was not able to respond to a neurological review of 
systems. He did mention that he has a seizure disorder that has 
not been active for ___ years, and per OMR it was treated many 
years ago with phenytoin only. 

 
Past Medical History:
- seizure disorder, with episodes previously described as "loss 
of awareness" per patient. These were treated successfully with 
phenytoin, but he has not been medicated for seizures for at 
least ___ years. His last seizure was at least ___ years ago.
- CAD, s/p MI and CABG in ___
- hypertension (baseline systolic BP 140s-150s)
- breast cancer in left breast, s/p resection in ___ and 
tamoxifen therapy until ___
- pulmonary edema related to tamoxifen therapy causing 
hospitalization in ___  
- thyroid nodule, right lobe, with normal TSH 
- pulmonary embolism in ___ 
- b/l cataracts  
- left rotator cuff tear s/p repair 
- s/p cholecystectomy
 
Social History:
___
Family History:
No family history of seizures or other neurological disorders. 

 
Physical Exam:
VITALS: T:98.6(PO)  P:79  R:26  BP:131/69  SaO2:100% on 2L by NC
GENERAL: The patient was found laying on his back on an inclined 
bed with his arms at his sides, looking quietly at those who 
enter his room. Makes frequent efforts to push down on the bed 
at his hips to bring his chest up from the bed, then lays back 
down in the same position.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
NECK: Supple, no carotid bruits auscultated. Full range of 
motion with no rigidity. 
LUNGS: Patient breathing through nose with no apparent increased 
work of breathing. CTA bilaterally with good aeration 
throughout. 
CARDS: RRR, nl. S1S2 distant but audible; no M/R/G noted. CABG 
scar present.
ABDOMEN: cholecystectomy scar present. Soft, NT/ND, normoactive 
bowel sounds, no masses or organomegaly noted.
EXTREMITIES: No clubbing, cyanosis, or edema bilaterally; 2+ 
radial, dorsalis pedis, and posterior tibial pulses bilaterally.
SKIN: dry skin with excoriations noted on inferior shins 
bilaterally.
.
NEUROLOGIC:
-Mental Status: 
The patient is alert and looks up at caregivers who walk into 
the room. He is oriented only to his name upon posing it as a 
yes/no question. Not able to relate any history, even when using 
yes/no questions. Not attentive, and unable to tract objects 
with his eyes but he does tract the eyes of the examiner. 
Language is composed of "yes," "no," "okay," and "mmm," but is 
otherwise composed of single-syllable stutters that last for ~15 
seconds on one syllable. Infrequently, unintelligible words are 
produced. He is able to understand simple commands such as "put 
on your glasses," which he subsequently follows. Prosody is 
normal. He was not able to name any objects. He was not able to 
read and follow the command "close your eyes." There was no 
evidence of apraxia or neglect, as the patient was able to put 
on his glasses and appreciate his surroundings on both sides of 
the room relative to himself.
.
Prior to this interview, when the patient was still verbal, he 
displayed suicidal ideation in his thought content by telling a 
nurse that he planned to kill himself. 
.
-Cranial Nerves:
I: Olfaction was not tested.
II: Pupils anisocoric with OD 4mm to 3mm and OS 5mm to 4mm. 
Constriction brisk. Corneal reflex intact bilaterally. 
Funduscopic exam revealed no papilledema, exudates, or 
hemorrhages. Discs were visualized bilaterally with clear 
margins and appropriate color.
III, IV, VI: EOMI without nystagmus, although there was a 
limitation to upward gaze bilaterally. Saccades were not able to 
be elicited.
V: Facial sensation was not able to be elicited. Masseter was 
palpated to be flexed as patient was breathing through nose with 
mouth clenched.
VII: No facial droop or drooling; facial musculature symmetric.
VIII: Hearing intact to commands from both sides; unable to 
elicit response from finger rub.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally; SCMs not able to be 
tested.
XII: Tongue protrudes in midline and moves freely in all 
directions.
.
-Motor: Normal bulk, tone throughout. Pronator test not able to 
be performed. Asterixis not able to be elicited.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     NA  NA
R  5    ___   ___  5   5    5  5     5     NA  NA
.
-Sensory: Patient jerks away from capillary bed pressure in all 
four extremities. Responded to vibration of 512 Hz tuning fork 
in all extremities. Communication limited remainder of sensory 
exam.
.
-Deep-tendon reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Babinski response was downgoing bilaterally.
.
-Coordination: Postural tremor noted in right hand when hands 
were held above head. Patient could not follow directions to 
perform FNF or HKS.
.
-Gait: deferred.

 
Pertinent Results:
Chemistries:
___ 01:35PM   GLUCOSE-198* UREA N-11 CREAT-1.5* SODIUM-139 
POTASSIUM-3.7 CHLORIDE-106 TOTAL CO2-18* ANION GAP-19
====================
Heme:
___ 01:35PM   WBC-7.0 RBC-5.04 HGB-16.0 HCT-46.9 MCV-93 
MCH-31.7 MCHC-34.1 RDW-13.6
___ 01:35PM   PLT COUNT-267
___ 01:35PM   NEUTS-81.7* LYMPHS-12.4* MONOS-3.4 EOS-2.1 
BASOS-0.4
___ 01:35PM   ___ PTT-25.4 ___
___ 01:35PM   ALBUMIN-4.6
====================
Hepatobiliary:
___ 01:35PM   ALT(SGPT)-46* AST(SGOT)-43* ALK PHOS-69 TOT 
BILI-0.7
___ 01:35PM   LIPASE-16
___ 01:35PM   ALBUMIN-4.6
====================
Tox:
___ 01:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
====================
Microbiology:
URINE CULTURE (Final ___:    NO GROWTH.
Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE 
SET ONLY. 
      Anaerobic Bottle Gram Stain (Final ___:  
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      FLUID CULTURE (Preliminary):    NO GROWTH.
RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
====================
Chest x-ray (PA and lateral) Study Date ___ 3:35 ___
FINDINGS: Frontal and lateral views of the chest are obtained. 
The patient 
is status post median sternotomy and CABG. The cardiac and 
mediastinal 
silhouettes are stable with the aorta calcified and tortuous and 
the cardiac silhouette not enlarged. The previously seen right 
base rounded density, which was thought to possibly represent 
nipple shadow, is not appreciated on the current study. No focal 
consolidation, pleural effusion, or evidence of pneumothorax is 
seen. There may be mild right base atelectasis, with lateral 
curvilinear opacity similar in appearance to ___. 
Compression of an upper lumbar vertebral body is subtly seen, 
unchanged. 
IMPRESSION: No significant interval change, no acute 
cardiopulmonary process. 
====================
Head CT without contrast Study Date ___ 3:08 ___
FINDINGS: There is no evidence of acute intracranial hemorrhage, 
edema, shift of normally midline structures or large acute major 
vascular territory infarction. Extensive periventricular and 
subcortical white matter low attenuation likely reflects 
sequelae of chronic small vessel ischemic disease. Focal 
hypodensities in bilateral basal ganglia likely reflects chronic 
lacunar infarcts. The ventricles, sulci and extra-axial CSF 
spaces are prominent, which likely reflect age-related 
involutional changes. Visualized osseous structures and 
paranasal sinuses appear unremarkable. Unchanged radiopaque 
foreign body in the right orbit is noted.  
IMPRESSION: No acute intracranial process. 
=====================
Transthoracic echocardiogram Study Date ___ 11:38:52 AM  
The left atrium is mildly dilated. Left ventricular wall 
thicknesses and cavity size are normal. There is mild regional 
left ventricular systolic dysfunction with akinesis of the basal 
inferior wall and hypokinesis of basal inferolateral wall. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No masses or vegetations are seen on 
the aortic valve, but cannot be fully excluded due to suboptimal 
image quality. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. No masses or vegetations are seen 
on the mitral valve, but cannot be fully excluded due to 
suboptimal image quality. Mild to moderate (___) mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 
.
Compared with the prior study (images reviewed) of ___, 
the severity of mitral regurgitation has increased. No 
vegetation identified. If clinically suggested, the absence of a 
vegetation by 2D echocardiography does not exclude endocarditis.
======================
EEG pending.
 
Brief Hospital Course:
This patient is a ___ year-old man with a distant history of a 
seizure disorder controlled with phenytoin, hypertension, breast 
cancer, and several falls and subacute fractures over the past 
year who presented with an episode of tonic-clonic jerking and 
urinary incontinence with a postictal period of confusion and 
eventual expressive aphasia. 
.
Neurological and mental status examinations were notable for a 
expressive aphasia, normal strength and reflexes, ability to 
follow only single-step commands, inability to repeat the 
examiner's words, down-going Babinskis bilaterally, and thought 
content that involved suicidal ideation prior to onset of the 
aphasia.
.
*) Generalized tonic-clonic seizure with urinary incontinence:
The patient's seizure in the setting of a period of ___ years 
without any seizures was concerning for an infectious or 
malignant underlying etiology. Head CT in the ED showed no acute 
process but marked frontal atrophy, per above, and the patient 
was loaded with phenytoin. In the setting of renal failure no 
contrast was used in this CT. Head MRI was considered, but 
full-body x-ray confirmed the presence of metal in his body. On 
the first evening of the hospital stay, the patient became 
febrile to 101.0. CSF and urine cultures were negative, and 
blood cultures grew out coagulase negative Staph. species, 
likely a contaminant (present in 1 of 2 samples). The fever 
resolved after one acetaminophen dose and did not return 
throughout his hospital stay. It was ultimately thought that 
this seizure was a reoccurance of the patient's seizure disorder 
that he had experienced several years prior, as infectious 
workup was negative and there was low concern for an 
intracranial mass.  Patient remained seizure free on the 
dilantin throughout his hospital course.  Prelim read of EEG 
demonstrated some background slowing but no focality or 
epileptic activity.  A final read will be available in ___ days. 
 He will need to have dilantin level checked in about 10 days, 
with LFTs, CBC, and Lytes.
.
.
*) Low-grade fever:
The Tmax was 101.0, and the fever resolved after one dose of 
acetaminophen and did not return throughout the hospital stay. 
Urine and CSF showed no signs of infection. The patient's blood 
culture initially came back positive for GPCs in clusters, 
raising concern for Staph aureus bacteremia and possible 
endocarditis. IV vancomycin was begun. TTE was performed, which 
was unconcerning for vegetations. However, speciation showed the 
organism to be coagulase negative, highly suggestive of 
contamination (only 1 or 2 vials drawn). The fever may have been 
due to an erroneous measurement, a drug fever, or a viral or 
other infection that was self-limited.  If patient should 
develop any fever or illness while at the ___ he should 
return for further evaluation.   
.
*) Abdominal pain:
The patient complained of dull abdominal pain in the left lower 
quadrant occasionally during his hospital stay. Constipation and 
diverticulitis/diverticulosis were both considered. It appears 
that this pain has been constant for the past 9 weeks, and has 
been worked up by his PCP, including an abdominal and pelvic CT, 
which have not shown any significant findings.  On exam patient 
had no abdominal tenderness, and a benign abdomen.  At discharge 
patient had no abdominal pain.  Bowel movements were regular.    

.
*) Depression:
The patient has a psychiatric history significant for 
depression, having been treated with many medications and 
electroconvulsive therapy. He did endorse suicidal ideation to a 
nurse upon arrival to the emergency room during the postictal 
period, and was followed by psychiatry throughout his stay. 
However, from then on he denied any suicidal ideation. He did 
describe his mood as "poor," but was unable to qualify it 
further. He was continued on his home regimen of duloxetine 
while in the hospital. He will follow-up with Dr. ___ 
his depression as an outpatient. 

*) Dementia:
With patients large degree of frontal atrophy on CT scan, a 
thought of Frontal Temporal dementia was raised.  However, notes 
dating back ___ years ago suggested a dementia, with significant 
atrophy seen on CT.  Therefore it appears more likely that this 
is a dementia with a predilection to the frontal lobes.  Further 
work up will be addressed as an outpatient and patient will 
follow up with Drs ___ in the Neurology 
Clinic

*)Competence:
Patient currently has no health care proxy.  ___ wife stated she 
did not want to be involved in his health care.  Psych believes 
that he was competent to make a decision to go to a rehab center 
but will need further competence evaluation while there.  
Patient states he has a sister in ___ named ___.  
Last name is possibly ___

*)General Medical Care:
Patient was seen by Geriatrics who added on other labs for gait 
instability.  Patient will follow up with Dr. ___ 
Geriatrician for further medical care.

 
Medications on Admission:
1. atorvastatin 10 mg daily
2. duloxetine 60 mg daily
3. cholecalciferol (Vitamin D3) 800 units daily
4. aspirin 81 mg daily  
5. metoprolol succinate 25 mg daily
6. acetaminophen 650 mg q8 hours PRN pain from recent
fractures/lacerations
7. multivitamin

 
Discharge Medications:
1. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Vitamin D-3 400 unit Tablet Sig: Two (2) Tablet PO once a 
___.  
4. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
5. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain fever.  
7. phenytoin 125 mg/5 mL Suspension Sig: 100 mg mg PO Q8H (every 
8 hours).
Disp:*90 mg* Refills:*5*
8. lorazepam 2 mg/mL Syringe Sig: One (1)  Injection Q4H (every 
4 hours) as needed for seizure > 4 min or seizure cluster >3 hr. 
 
9. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a ___.  
10. multivitamin     Tablet Sig: One (1) Tablet PO once a ___.  
11. Outpatient Lab Work
Phenytoin Level.  Re: Seizures

CBC/LFTs (AST, ALT, Alk Phos, ALbumin)/ Basic Metabolic Panel
Re: Seizures

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___, 

It was a pleasure taking care of you while you were here at the 
___. You were found to have a seizure.  This was thought to be 
a reoccurance of your past seizure disorder.  You were started 
on Dilantin (phenytoin) for seizures and your levels have been 
stable.  An EEG was done which demonstrated a slowed rhythm but 
no active seizure activity.

You will need to have your Dilantin level checked in about 10 
days. 

You were found to have a low grade fever on the first night of 
your admission.  A lumbar puncture and systemic work up was 
negative for any evidence of infection.  You have been without 
fever since that night.  

Your dementia is thought to be chronic as it was mentioned in 
notes dating back to ___.  

You saw Psychiatry on this admission with your history of 
psychiatric illness.  You will need to be re evaluated while in 
rehab.  You will also need to be seen by Dr. ___ with 
Geriatric ___.

You will need to follow up with your PCP ___ your 
medical issues.  Your appointment has been scheduled below.
 
Followup Instructions:
___